US06962768B2
An exemplary photoresist composition may be prepared by dissolving one or more of the tetrapolymers (1 g) described above in connection with the Tetrapolymer Synthesis Examples 4-1 to 4-6, triphenylsulfonium nonaflate (0.03 g) as a PAG and triisodecyl amine (2 mg) as an organic base in cyclohexanone (8.0 g) to form a solution. This solution was then filtered using a membrane filter of 0.2 μm to obtain an exemplary photoresist composition, R-11.

reactant | triphenylsulfonium nonaflate | 0.03 g | S(=O)(=O)([O-])C(F)(F)C(F)(F)C(F)(F)C(F)(F)F.C1(=CC=CC=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | triisodecyl amine | 2 mg | C(CCCCCCC(C)C)N(CCCCCCCC(C)C)CCCCCCCC(C)C | C30H63N
reactant | cyclohexanone | 8.0 g | C1(CCCCC1)=O | C6H10O
product | R-11 | C1C=CCC2C1C3CC=CCC3(O2)C=O | C13H16O2
